US08563617B2
N-{3-[8-Benzyl-7-(propan-2-ylamino)-5,6,7,8-tetrahydronaphthalen-2-yl]propyl}propane-1-sulfonamide hydrochloride
N-{3-[8-(3,4-Dichlorobenzyl)-7-(propan-2-ylamino)-5,6,7,8-tetrahydronaphthalen-2-yl]propyl}propane-1-sulfonamide (70 mg, 0.137 mmol) was dissolved in methanol (1.5 mL) and palladium hydroxide (30 mg, 0.214 mmol) was added. The reaction mixture was heated under reflux in an atmosphere of hydrogen for 6 h. The catalyst was removed by filtration and the crude product was purified by flash chromatography (silica gel, dichloromethane, methanol). The obtained amine was dissolved in dichloromethane (2 mL) and 5 N hydrochloric acid in isopropanol (0.3 mL) was added. The solvent was evaporated and the product dried in vacuo. Yield: 30 mg (0.63 mmol, 46%).

reactant | N-{3-[8-(3,4-Dichlorobenzyl)-7-(propan-2-ylamino)-5,6,7,8-tetrahydronaphthalen-2-yl]propyl}propane-1-sulfonamide | 0.137 mmol, 70 mg | ClC=1C=C(CC2C(CCC=3C=CC(=CC23)CCCNS(=O)(=O)CCC)NC(C)C)C=CC1Cl | C26H36Cl2N2O2S
reactant | hydrogen | [H][H] | H2
solvent | methanol | 1.5 mL | CO | CH4O
catalyst | palladium hydroxide | 0.214 mmol, 30 mg | [OH-].[Pd+2].[OH-]
product | N-{3-[8-Benzyl-7-(propan-2-ylamino)-5,6,7,8-tetrahydronaphthalen-2-yl]propyl}propane-1-sulfonamide hydrochloride | Cl.C(C1=CC=CC=C1)C1C(CCC=2C=CC(=CC12)CCCNS(=O)(=O)CCC)NC(C)C | InChI=1S/C26H38N2O2S.ClH/c1-4-17-31(29,30)27-16-8-11-22-12-13-23-14-15-26(28-20(2)3)25(24(23)18-22)19-21-9-6-5-7-10-21;/h5-7,9-10,12-13,18,20,25-28H,4,8,11,14-17,19H2,1-3H3;1H
